US07429665B2
2-{4-[1-Methyl-4-(2-methyl-pyridin-4-yl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline
To a solution of 2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline (100 mg) in dioxane (1.2 ml) was added methyl boroxine (0.066 ml), palladium tetrakis (41 mg) and 2N sodium carbonate solution (0.234 ml). The reaction mixture was heated at 100° C. for 8 h, poured into 1 N NaOH, extracted with chloroform, dried magnesium sulfate, filtered and concentrated. Prep TLC run with 3% methanol/0.5% saturated ammonium hydroxide/80% ethyl acetate in hexanes provided the free base material. The produce was stirred in ethyl acetate and 2 eq. of succinic acid was added to give a white precipitate which was filtered to provide the title compound as a white solid succinate salt (20 mg). 1H NMR (400 MHz, DMSO) δ 8.40 (d, J=8.3 Hz, 2 H), 8.25 (d, J=5.0 Hz, 2 H), 8.07 (s, 1H), 8.00 (t, J=7.9 Hz, 2 H), 7.77 (t, J=6.6 Hz, 1 H), 7.67 (d, J=8.7 Hz, 2H), 7.60 (t, J=6.6 Hz, 1 H), 7.29 (d, J=9.1 Hz, 2H), 7.03 (m, 3 H), 6.92 (m, 1H), 5.35 (s, 2H), 3.85 (s, 3H), 2.37 (s, 4H) 2.31 (s, 3H); MS: (M+H m/z=407.0).

reactant | 2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | 100 mg | ClC1=NC=CC(=C1)C=1C(=NN(C1)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H19ClN4O
reactant | methyl boroxine | 0.066 ml | CB1OBOBO1 | CH5B3O3
reactant | sodium carbonate | 2N, 0.234 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | succinic acid | 2 eq. | C(CCC(=O)O)(=O)O | C4H6O4
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium tetrakis | 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{4-[1-Methyl-4-(2-methyl-pyridin-4-yl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | CN1N=C(C(=C1)C1=CC(=NC=C1)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C26H22N4O
